US06436923B1
B. 6-Methoxy-1-{4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
A solution of N-[2-(3-methoxyphenyl)ethyl]-2-[4-(phenylmethoxy)phenyl]acetamide (5.739 g, 15.3 mmol) and phosphorous oxychloride (15 mL) in acetonitrile (40 mL) under nitrogen was heated at 80 ° C. for 5 hours. Solvents were evaporated. Ethyl acetate was added and evaporated three times. The residue was dissolved in methanol (50 mL) and sodium borohydride (2.00 g, 52.9 mmol) was carefully added to the solution in small portions. After 2 hours, the reaction was quenched with water and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 0-10% methanol/CH2Cl2) to provide the title compound (1.54 g, 28% yield): 1H NMR (CDCl3) 7.36 (m, 6H), 7.12 (d, 2H), 6.91 (d, 2H), 6.73 (dd, 1H), 6.62 (m, 1H), 5.04 (s, 2H), 4.97 (t, 1H), 4.17 (br, 1H), 3.78 (s, 3H), 3.73 (m, 1H), 3.16 (m, 2H), 2.83 (m, 3H); ES-MS (m/z) 360 [M+H]+.

reactant | N-[2-(3-methoxyphenyl)ethyl]-2-[4-(phenylmethoxy)phenyl]acetamide | 15.3 mmol, 5.739 g | COC=1C=C(C=CC1)CCNC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C24H25NO3
reactant | phosphorous oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium borohydride | 52.9 mmol, 2.00 g | [BH4-].[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 6-Methoxy-1-{4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 1.54 g, 28% yield | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
